US08487108B2
To a solution of tert-butyl (2R,3S)-2-amino-3-cyclohexyl-3-(trimethylsilyloxy)propyl(methyl)carbamate (79.8 mg, 0.223 mmol) in anhydrous CH2Cl2 (2 mL) were added DIEA (190 μL, 1.12 mmol) and CDI (36.2 mg, 0.223 mmol). The mixture was stirred at 0° C. for 45 min, and methyl (S)-4-(2-chloro-3-fluorophenyl)-4-hydroxy-4-((R)-piperidin-3-yl)butylcarbamate (80.0 mg, 0.223 mmol) was added in one portion and the mixture was allowed to warm to rt and stirred overnight. The reaction was quenched with water and extracted with CH2Cl2 (3×20 mL). The organic extracts were washed with brine and concentrated to give crude product, which was purified by preparative HPLC to afford methyl (S)-4-(2-chloro-3-fluorophenyl)-4-((R)-1-((1S,2R)-1-cyclohexyl-1-hydroxy-3-(N-methyl-N-(t-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)-4-hydroxybutylcarbamate (70 mg, 46.8%). MS (E/Z): 671 (M+H+).

reactant | tert-butyl (2R,3S)-2-amino-3-cyclohexyl-3-(trimethylsilyloxy)propyl(methyl)carbamate | 0.223 mmol, 79.8 mg | N[C@H](CN(C(OC(C)(C)C)=O)C)[C@@H](O[Si](C)(C)C)C1CCCCC1 | C18H38N2O3Si
reactant | DIEA | 1.12 mmol, 190 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | CDI | 0.223 mmol, 36.2 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methyl (S)-4-(2-chloro-3-fluorophenyl)-4-hydroxy-4-((R)-piperidin-3-yl)butylcarbamate | 0.223 mmol, 80.0 mg | ClC1=C(C=CC=C1F)[C@](CCCNC(OC)=O)([C@H]1CNCCC1)O | C17H24ClFN2O3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl (S)-4-(2-chloro-3-fluorophenyl)-4-((R)-1-((1S,2R)-1-cyclohexyl-1-hydroxy-3-(N-methyl-N-(t-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)-4-hydroxybutylcarbamate | 70 mg, 46.8% | ClC1=C(C=CC=C1F)[C@@](CCCNC(OC)=O)(O)[C@H]1CN(CCC1)C(N[C@@H]([C@@H](O)C1CCCCC1)CN(C(=O)OC(C)(C)C)C)=O | C33H52ClFN4O7
